US08791255B2
0.756 ml of a solution of aluminium trichloride (2N) in toluene are added slowly to a solution of 0.136 ml of 4-fluoroaniline in 5 ml of toluene at a temperature of between 0° C. and 10° C. After stirring for 40 min at a temperature in the region of 20° C., 271 mg of ethyl difluoro[4-({[(2-methylpropan-2-yl)oxy]carbonyl}oxy)-6-(morpholin-4-yl)pyrimidin-2-yl]acetate solubilized in 6 ml of toluene, are slowly added. After refluxing for 2 h30, the temperature returns to a temperature in the region of 20° C. and then, at 0° C., 26 ml of water and 26 ml of a molar solution of potassium dihydrogen phosphate are added and the resulting mixture is extracted with ethyl acetate. The organic phase is washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulphate, filtered and concentrated to dryness under reduced pressure. After silica column purification of the residue, eluent: 95/05 CH2Cl2/MeOH, the solid is taken up with 5 ml of dichloromethane, the mixture is heated at 40° C. for 5 min, and then the temperature is returned to a temperature in the region of 20° C. The insoluble material is spin-filter-dried, and washed by triturating, from 1 ml of dichloromethane, three times, and then dried in a vacuum bell jar. 28 mg of 2,2-difluoro-N-(4-fluorophenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained in the form of a white powder, the characteristics of which are the following:

reactant | aluminium trichloride | 2N | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 4-fluoroaniline | 0.136 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | ethyl difluoro[4-({[(2-methylpropan-2-yl)oxy]carbonyl}oxy)-6-(morpholin-4-yl)pyrimidin-2-yl]acetate | 271 mg | FC(C(=O)OCC)(C1=NC(=CC(=N1)OC(=O)OC(C)(C)C)N1CCOCC1)F | C17H23F2N3O6
reactant | potassium dihydrogen phosphate | P(=O)(O)(O)[O-].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 26 ml | O | H2O
product | 2,2-difluoro-N-(4-fluorophenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 28 mg | FC(C(=O)NC1=CC=C(C=C1)F)(C=1NC(C=C(N1)N1CCOCC1)=O)F | C16H15F3N4O3
